US04954498
8,8-Dimethyl-2-(4-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
6.8 g. (18.4 mmole) 4,4-dimethyl-6-(4-methoxy- benzoylamino)-7-nitro-1,2,3,4-tetrahydroquinolin-2-one were hydrogenated in 200 ml. ethanol in the presence of 0.6 g. 10% palladium on charcoal. After filtering off of the catalyst, the filtrate was mixed with 15 ml. concentrated hydrochloric acid and boiled under reflux for 20 hours. The evaporation residue was mixed with water and ammonia, extracted with methylene chloride/methanol (20:1 v/v), purified over silica gel (elution agent: methylene chloride/ammonia-saturated methanol; 20:1 v/v) and recrystallised from ethanol to give 3.5 g. (60% of theory) of the title compound; m.p. 235°-238° C.

reactant | 4,4-dimethyl-6-(4-methoxy- benzoylamino)-7-nitro-1,2,3,4-tetrahydroquinolin-2-one | 18.4 mmole | CC1(CC(NC2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)C | C19H19N3O5
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 8,8-Dimethyl-2-(4-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=CC=C(C=C3)OC)=O)C | C19H19N3O2
